US04013777
To a stirred solution of 6.1 g. of 3,4-dibenzyloxyphenol in 10 ml. of water and 1.53 g. of potassium hydroxide pellets is added 5.6 g. of epichlorohydrin in 60 ml. of ethanol. The solution is stirred at room temperature for 24 hours and then concentrated in vacuo. The residue is suspended in water and the mixture extracted with ether. The ether extracts are dried to yield 3-(3,4-dibenzyloxyphenoxy)-1,2-epoxypropane.

reactant | 3,4-dibenzyloxyphenol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)O | C20H18O3
reactant | water | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | ethanol | C(C)O | C2H6O
product | 3-(3,4-dibenzyloxyphenoxy)-1,2-epoxypropane | C(C1=CC=CC=C1)OC=1C=C(OCC2CO2)C=CC1OCC1=CC=CC=C1 | C23H22O4
